US04981850
To a stirred suspension of 5g (0.023 mole) of 4-chloro-6,7-dihydro-2-ethyl-5H-pyrimido[4,5-b][1,4]oxazin-6-one (prepared using the method of Melik-Ogandzhanyan, et al., Khimiya Geterotsiklicheskikh Soedinenii, 1985, 974) in 100 ml of N,N-dimethylformamide was added 0.75g (0.025 mole) of 80% sodium hydride in oil. After ten minutes 3.5g (0.025 mole) of methyl iodide was added. After two hours the solution was diluted with about 400ml of water, and extracted thrice with 250ml portions of chloroform. The extracts were washed with water, dried over magnesium sulfate, treated with decolorizing charcoal, and evaporated in vacuo. The resulting oil was triturated with a mixture of diethyl ether and hexanes to provide light green solid 4-chloro-6,7-dihydro-2-ethyl-5-methylpyrimido[4,5-b][1,4]oxazin-6-one.

reactant | 4-chloro-6,7-dihydro-2-ethyl-5H-pyrimido[4,5-b][1,4]oxazin-6-one | ClC1=NC(=NC=2OCC(NC21)=O)CC | C8H8ClN3O2
reactant | sodium hydride | 0.025 mole, 0.75g | [H-].[Na+]
reactant | methyl iodide | 0.025 mole, 3.5g | CI | CH3I
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | about 400ml | O | H2O
product | 4-chloro-6,7-dihydro-2-ethyl-5-methylpyrimido[4,5-b][1,4]oxazin-6-one | ClC1=NC(=NC=2OCC(N(C21)C)=O)CC | C9H10ClN3O2
